US09193935B2
8.3: 5-(3-p-Tolylprop-1-enyl)benzo[d][1,3]dioxole
Starting from p-methylphenethyltriphenylphosphonium iodide, which has been synthesized from 1-(2-iodoethyl)-4-methylbenzene and PPh3, (2.54 g, 5.00 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 3.1 mL, 5.00 mmol, 1.0 equiv.) and benzo[d][1,3]dioxole-5-carbaldehyde (0.98 g, 6.50 mmol, 1.3 equiv.), 0.50 g (40%) of the title compound as a light yellow oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3).

reactant | p-methylphenethyltriphenylphosphonium iodide | [I-].CC1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | 1-(2-iodoethyl)-4-methylbenzene | ICCC1=CC=C(C=C1)C | C9H11I
reactant | PPh3 | 5.00 mmol, 2.54 g, 1.0 equiv. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | n-BuLi | 5.00 mmol, 1.6 M, 3.1 mL, 1.0 equiv. | [Li]CCCC
reactant | benzo[d][1,3]dioxole-5-carbaldehyde | 6.50 mmol, 0.98 g, 1.3 equiv. | O1COC2=C1C=CC(=C2)C=O | C8H6O3
product | 5-(3-p-Tolylprop-1-enyl)benzo[d][1,3]dioxole | 0.50 g, 40% | C1(=CC=C(C=C1)CC=CC1=CC2=C(OCO2)C=C1)C | C17H16O2
